US07098228B2
In analogy to the procedures described in examples 1 a] and 1 b], rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole in N,N-dimethylformamide in the presence of sodium hydride to yield rac-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester, which was subsequently saponified to yield rac-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid as light green solid.

reactant | rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CNC2=CC=C1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | rac-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CN(C2=CC=C1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C)OCC)=O | C29H34N2O4
